### PR TITLE
[Merged by Bors] - feat(Algebra/MonoidAlgebra): complete the map API

### PR DESCRIPTION
**Pull request by YaelDillies**
Add congruence isomorphisms in both the ring and monoid arguments. Move `mapRangeRingHom` from `Algebra.MonoidAlgebra.Lift` to `Algebra.MonoidAlgebra.MapDomain` and make its proofs additivisable (by not using `lift`). Make `mapDomainRingHom` take a `MonoidHom` rather than `MonoidHomClass`.

---
- [x] depends on: #32486

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 1]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+  map_add' x y := by ext; simp
+
+end Equiv
+
+namespace AddEquiv
+variable [Semiring R] [Semiring S] [Mul M]
+
+/-- Isomorphic rings have isomorphic monoid algebras. -/
+@[to_additive (dont_translate := R S) (attr := simps)
+/-- Isomorphic rings have isomorphic monoid algebras. -/]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
/-- Additively isomorphic rings have additively isomorphic monoid algebras. -/
@[to_additive (dont_translate := R S) (attr := simps)
/-- Additively isomorphic rings have additively isomorphic additive monoid algebras. -/]
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 2]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+def monoidAlgebraCongrRight (e : M ≃* N) : MonoidAlgebra R M ≃+* MonoidAlgebra R N :=
+  .ofRingHom (MonoidAlgebra.mapDomainRingHom R e) (MonoidAlgebra.mapDomainRingHom R e.symm)
+    (by apply MonoidAlgebra.ringHom_ext <;> simp) (by apply MonoidAlgebra.ringHom_ext <;> simp)
+
+end MulEquiv
+
+namespace RingEquiv
+variable [Semiring R] [Semiring S] [Monoid M]
+
+/-- Isomorphic rings have isomorphic monoid algebras. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:251]:
```suggestion
/-- Isomorphic rings have isomorphic additive monoid algebras. -/
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 3]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+  left_inv x := by ext; simp
+  right_inv x := by ext; simp
+  map_add' x y := by ext; simp
+
+end AddEquiv
+
+namespace MulEquiv
+variable [Semiring R] [Monoid M] [Monoid N]
+
+/-- Isomorphic monoids have isomorphic monoid algebras. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:222]:
```suggestion
/-- Isomorphic monoids have isomorphic additive monoid algebras. -/
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 4]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+
+namespace RingEquiv
+variable [Semiring R] [Semiring S] [Monoid M]
+
+/-- Isomorphic rings have isomorphic monoid algebras. -/
+@[to_additive (dont_translate := R S) (attr := simps! apply symm_apply)
+/-- Isomorphic rings have isomorphic monoid algebras. -/]
+def monoidAlgebraCongrLeft (e : R ≃+* S) : MonoidAlgebra R M ≃+* MonoidAlgebra S M :=
+  .ofRingHom (MonoidAlgebra.mapRangeRingHom M e) (MonoidAlgebra.mapRangeRingHom M e.symm)
+    (by apply MonoidAlgebra.ringHom_ext <;> simp) (by apply MonoidAlgebra.ringHom_ext <;> simp)
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Can you add the `toRingHom` lemma, and similarly for the other isomorphisms? These are handy for loogling with `MonoidAlgebra.mapRangeRingHom, RingEquiv` etc.

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 5]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+end AddEquiv
+
+namespace MulEquiv
+variable [Semiring R] [Monoid M] [Monoid N]
+
+/-- Isomorphic monoids have isomorphic monoid algebras. -/
+@[to_additive (dont_translate := R) (attr := simps! apply symm_apply)
+/-- Isomorphic monoids have isomorphic monoid algebras. -/]
+def monoidAlgebraCongrRight (e : M ≃* N) : MonoidAlgebra R M ≃+* MonoidAlgebra R N :=
+  .ofRingHom (MonoidAlgebra.mapDomainRingHom R e) (MonoidAlgebra.mapDomainRingHom R e.symm)
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Can you reference this from `MonoidAlgebra.mapDomainRingHom` and vice versa? The names are pretty different, and it would help with discoverability.

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 6]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
 
 end MonoidAlgebra
 
+namespace Equiv
+variable [Semiring R] [Mul M] [Mul N]
+
+/-- Isomorphic monoids have isomorphic monoid algebras. -/
+@[to_additive (dont_translate := R) (attr := simps apply symm_apply)
+/-- Isomorphic monoids have isomorphic monoid algebras. -/]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
/-- Isomorphic monoids have isomorphic additive monoid algebras. -/]
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 7]
```diff
@@ -88,6 +88,60 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+  map_add' x y := by ext; simp
+
+end AddEquiv
+
+namespace MulEquiv
+variable [Semiring R] [Monoid M] [Monoid N]
+
+/-- Isomorphic monoids have isomorphic additive monoid algebras. -/
+@[to_additive (dont_translate := R) (attr := simps! apply symm_apply)
+/-- Isomorphic monoids have isomorphic monoid algebras. -/]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
/-- Isomorphic monoids have isomorphic monoid algebras. -/
@[to_additive (dont_translate := R) (attr := simps! apply symm_apply)
/-- Isomorphic monoids have isomorphic additive monoid algebras. -/]
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 8]
```diff
@@ -88,6 +92,104 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+
+end MulEquiv
+
+namespace RingEquiv
+variable [Semiring R] [Semiring S] [Semiring T] [Monoid M]
+
+/-- Isomorphic rings have isomorphic monoid algebras. -/
+@[to_additive (dont_translate := R S) (attr := simps! apply symm_apply)
+/-- Isomorphic rings have isomorphic additive monoid algebras. -/]
+def monoidAlgebraCongrLeft (e : R ≃+* S) : MonoidAlgebra R M ≃+* MonoidAlgebra S M :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: This name doesn't match the existing `MonoidAlgebra.mapRangeAlgEquiv`

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 9]
```diff
@@ -88,6 +92,104 @@ lemma mapRangeRingHom_comp_mapDomainRingHom (f : R →+* S) (g : M →* N) :
...
+
+end AddEquiv
+
+namespace MulEquiv
+variable [Semiring R] [Monoid M] [Monoid N] [Monoid O]
+
+/-- Isomorphic monoids have isomorphic monoid algebras. -/
+@[to_additive (dont_translate := R) (attr := simps! apply symm_apply)
+/-- Isomorphic monoids have isomorphic additive monoid algebras. -/]
+def monoidAlgebraCongrRight (e : M ≃* N) : MonoidAlgebra R M ≃+* MonoidAlgebra R N :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: This is a weaker version of `MonoidAlgebra.domCongr`; do we need both?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Given that `k` cannot be inferred from the inputs alone, I would think so, yes

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Remember we already had this discussion, and decided that `IsoType.fooCongr(Left/Right)` was the right pattern.

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Sure, though you can set `k` to `Nat`

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Then can you first make a PR to deprecate the existing mis-named one?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Can we please postpone this rename? This refactor (making `MonoidAlgebra` a one-field structure) has a lot of moving parts and they all depend on each other in subtle ways... eg I just realised that #32398 should depend on the present PR.

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: `MonoidAlgebra.domCongr` is also defined too late to be used in the places where I want to use without increasing imports

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 8 above)
Comment (jcommelin) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Fine with me. Is there a record of the discussion of the right pattern, is the conclusion an issue that we can track?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: The previous discussion was in the PR which I can't find anymore because of how generic "congr" is as a term 🥲

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 9 above)
Comment (jcommelin) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Can we do something about that?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 8 above)
Comment (jcommelin) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Since #32398 has been merged, the pressure is less acute to get this one merged, I assume.
So can you start the PR/issue that does the renaming?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Ultimately, the pressure comes from #25273, but I have adapted to Eric's suggested names anyway

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Not without removing some `assert_not_exists`s. But in other places of the library we tend to keep the `RingEquiv` versions even when they are not more general than the `AlgEquiv` ones, so I claim this is okay.

Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: If we do want to have both, we should certainly be implementing the algebra one in terms of the ring one, rather than having them not reference each other.
